US06174885B1
{6-[(Tetradecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride (Compound 10)
4N Hydrochloric acid/ethyl acetate solution (1.58 ml) was added to a solution of {6-[(tetradecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate (2.500 g) in ethyl acetate (25 ml). After being stirred for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate-ethanol mixed solution, thereby yielding the entitled compound (2.147 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.58 ml | Cl.C(C)(=O)OCC
reactant | {6-[(tetradecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate | 2.500 g | CN1CCN(CC1)C(=O)OCC1CC=CCC1C(=O)NCCCCCCCCCCCCCC | C28H51N3O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | {6-[(Tetradecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride | 2.147 g | Cl.CN1CCN(CC1)C(=O)OCC1CC=CCC1C(=O)NCCCCCCCCCCCCCC | InChI=1S/C28H51N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-16-19-29-27(32)26-18-15-14-17-25(26)24-34-28(33)31-22-20-30(2)21-23-31;/h14-15,25-26H,3-13,16-24H2,1-2H3,(H,29,32);1H
